US07399780B2
2-Hydroxy-3-{5-[(3-methylpiperidin-1-yl)methyl]pyridin-2-yl}-1H-indole-5-carbonitrile
To a suspension of sodium hydride (60% in mineral oil, 45 mg, 1.12 mmol) in N,N-dimethylformamide (1 mL) was added 5-cyanooxindole (133 mg, 0.84 mmol), and the mixture was stirred at ambient temperature for 10 min. To the obtained brownish solution was added a solution of 2-chloro-5-[(3-methylpiperidin-1-yl)methyl]pyridine 1-oxide (0.56 mmol) in N,N-dimethylformamide (1.5 mL). The reaction mixture was heated at 130° C. for 30 min, and was then allowed to cool. To the residue was added 2 M HCl(aq) and the obtained suspension was washed with ethyl acetate. The aqueous layer was neutalized with 45% NaOH(aq) and alkalized to saturation with NaHCO3 (s), and extracted two times with ethyl acetate. The extracts were combined, dried (MgSO4) and the solvent was removed in vacuo affording 84 mg of the crude product. The material was dissolved in ethyl acetate (10 mL), and to the solution was added phosphorus trichloride (0.2 mL, 2.24 mmol). The obtained orange suspension was heated at reflux for 1 h and was then allowed to cool. The precipitate was filtered, washed with ethyl acetate, and dried in vacuo affording 70 mg of an orange residue. The material was was purified by preparative HPLC (column: Xterra, C8, 7 μm, 19×300 mm; eluent: 0.1 M NH4OAc buffer/acetonitrile, 8:2 to 4:6) affording 15 mg (8% yield) of the title compund as an orange solid: 1H NMR (aceton-d6, 400 MHz) δ 9.86 (br s, 1 H), 8.11 (s, 1 H), 7.91 (dd, J=9, 2 Hz, 1 H), 7.84 (d, J=9 Hz, 1 H), 7.82 (d, J=1 Hz, 1 H), 7.26 (dd, J=8, 2 Hz, 1 H), 7.11 (d, J=8 Hz, 1 H), 3.44 (s, 2 H), 2.00-1.50 (m, 6 H), 0.95-0.81 (m, 4 H); MS (ES) m/z 347 (M++1).

reactant | sodium hydride | 1.12 mmol, 45 mg | [H-].[Na+]
reactant | 5-cyanooxindole | 0.84 mmol, 133 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 2-chloro-5-[(3-methylpiperidin-1-yl)methyl]pyridine 1-oxide | 0.56 mmol | ClC1=[N+](C=C(C=C1)CN1CC(CCC1)C)[O-] | C12H17ClN2O
reactant | HCl | 2 M | Cl | ClH
reactant | phosphorus trichloride | 2.24 mmol, 0.2 mL | P(Cl)(Cl)Cl | Cl3P
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxy-3-{5-[(3-methylpiperidin-1-yl)methyl]pyridin-2-yl}-1H-indole-5-carbonitrile | 70 mg, 8% yield | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CC(CCC1)C)C#N | C21H22N4O
